US05708175
(1) Preparation of 4-ethoxy-1,1,1-trifluoro-3-buten-2-one
In 150 ml of methylene chloride, 21 ml (0.22 mol) of ethyl vinyl ether and 26.1 g (0.33 mol) of pyridine were dissolved, and 43.8 g (0.33 mol) of trifluoroacetyl chloride was blown into this solution over a period of 30 minutes at room temperature. The mixture was further stirred at room temperature for 2.5 hours. Then, the reaction solution was extracted by an addition of 100 ml of methylene chloride and 100 ml of ice water.

reactant | ethyl vinyl ether | 0.22 mol, 21 ml | C(=C)OCC | C4H8O
reactant | pyridine | 0.33 mol, 26.1 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetyl chloride | 0.33 mol, 43.8 g | FC(C(=O)Cl)(F)F | C2ClF3O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | 4-ethoxy-1,1,1-trifluoro-3-buten-2-one | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
